US07465795B2
4-amino-8-(4-fluorophenyl)-N-propyl-cinnoline-3-carboxamide
Using method F, 4-amino-8-iodo-N-propyl-cinnoline-3-carboxamide (178 mg, 0.50 mmol) and 4-fluorophenylboronic acid (280 mg, 2.00 mmol) were reacted (reflux 24 hours) to afford the title compound (76 mg, 47% yield) as a white solid. 1H NMR (300 MHz, CDCl3)) δ8.56 (bm, 1H), 7.86 (dd, J=7.7 Hz, 1H), 7.65-7.80 (m, 4H), 7.19 (t, J=8.6 Hz, 2H), 3.45 (apparent q, J=6.6 Hz, 2H), 1.67 (apparent sextet, J=7.4 Hz, 2H), 1.01 (t, J=7.4 Hz, 3H). MS APCI, m/z=325 (M+H) HPLC 1.74 min.

reactant | 4-amino-8-iodo-N-propyl-cinnoline-3-carboxamide | 0.50 mmol, 178 mg | NC1=C(N=NC2=C(C=CC=C12)I)C(=O)NCCC | C12H13IN4O
reactant | 4-fluorophenylboronic acid | 2.00 mmol, 280 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 4-amino-8-(4-fluorophenyl)-N-propyl-cinnoline-3-carboxamide | 76 mg, 47% yield | NC1=C(N=NC2=C(C=CC=C12)C1=CC=C(C=C1)F)C(=O)NCCC | C18H17FN4O
